US05030640
To a solution of 1.5 g of (R)-6-Amino-α-[[(1,1-dimethyl-2-(1H-indol-3-yl)ethyl)amino]methyl]-3-pyridinemethanol in 20 ml of pyridine under nitrogen, acetic anhydride (10 ml) is added and the reaction mixture stirred at ambient temperature overnight. The mixture is then concentrated under reduced pressure. The crude acetylated product is treated with 0.9 g of m-chloroperbenzoic acid in 20 ml of CH2Cl2 for 4 hours at room temperature. The reaction mixture is concentrated once again and redissolved in 10 ml of methanol and treated with excess methanolic KOH solution at room temperature for 6 hours. The mixture is partially concentrated and then diluted with water and extracted repeatedly with CH2Cl2. The combined extracts is backwashed with saturated sodium chloride solution and dried with anhydrous magnesium sulfate. The solution is concentrated and the residue chromatographed on silica gel to give the (R)-6-Amino-α-[[(1,1-dimethyl-2-(1H-indol-3-yl)ethyl)amino]methyl]-3-pyridinemethanol-1-oxide.

reactant | (R)-6-Amino-α-[[(1,1-dimethyl-2-(1H-indol-3-yl)ethyl)amino]methyl]-3-pyridinemethanol | 1.5 g | NC1=CC=C(C=N1)[C@@H](O)CNC(CC1=CNC2=CC=CC=C12)(C)C | C19H24N4O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (R)-6-Amino-α-[[(1,1-dimethyl-2-(1H-indol-3-yl)ethyl)amino]methyl]-3-pyridinemethanol-1-oxide | NC1=CC=C(C=[N+]1[O-])[C@@H](O)CNC(CC1=CNC2=CC=CC=C12)(C)C | C19H24N4O2
